US08835472B2
N-{2-[4-(2-Ethoxy-pyridin-4-ylethynyl)-phenyl]-1-methyl-ethyl}-acetamide
To 100 mg (0.50 mmol) N-[2-(4-ethynyl-phenyl)-1-methyl-ethyl]-acetamide (I58.2) and 124 mg (0.50 mmol) 2-ethoxy-4-iodo-pyridine (I6.1) in 5.00 mL ACN are added 20.3 mg (0.03 mmol) 1,1′-bis[diphenylphosphino]ferrocenepalladium dichloride dichloromethane complex (1:1), 4.83 mg (0.03 mmol) CuI and 0.16 mL (1.16 mmol) TEA. The mixture is stirred at r.t. over night, then poured onto water and extracted with DCM. The organic layer is dried with MgSO4 and the solvent is removed in vacuo. The residue is purified by column chromatographie (silica gel; PE/EtOAc 1/1→EtOAc 100%).

reactant | N-[2-(4-ethynyl-phenyl)-1-methyl-ethyl]-acetamide | 0.50 mmol, 100 mg | C(#C)C1=CC=C(C=C1)CC(C)NC(C)=O | C13H15NO
reactant | 2-ethoxy-4-iodo-pyridine | 0.50 mmol, 124 mg | C(C)OC1=NC=CC(=C1)I | C7H8INO
solvent | ACN | 5.00 mL | C(C)#N | C2H3N
catalyst | CuI | 0.03 mmol, 4.83 mg | [Cu]I
product | N-{2-[4-(2-Ethoxy-pyridin-4-ylethynyl)-phenyl]-1-methyl-ethyl}-acetamide | C(C)OC1=NC=CC(=C1)C#CC1=CC=C(C=C1)CC(C)NC(C)=O | C20H22N2O2
